US04232031
A mixture of 20 g of 6-methoxy-1H-indole, 41.75 g of the hydrate of 4-piperidone hydrochloride and 205 ml of 2 N methanolic potassium hydroxide solution was refluxed under an inert atmosphere for 81/2 hours and the mixture was slowly diluted with water to a volume of 1.2 liters. Crystallization began and the mixture was stirred for 30 minutes and then was filtered. The recovered product was rinsed with water and dried at 50° C. under reduced pressure over a desiccant to obtain 23.05 g of 6-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole.

reactant | 6-methoxy-1H-indole | 20 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | 4-piperidone hydrochloride | Cl.N1CCC(CC1)=O
reactant | potassium hydroxide | 2 N, 205 ml | [OH-].[K+]
solvent | water | O | H2O
product | 6-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 23.05 g | COC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C14H16N2O
